US04302464
B. 2-ethylamino-4-(2-methyl-4-imidazolyl)pyridine
A mixture of 2.0 g. (8 mmoles) of 2-(2-ethylamino-4-pyridyl)-2,2-diethoxyethylamine, 1.0 g. (8.3 mmoles) of ethyl acetimidate hydrochloride and 30 ml. of absolute ethanol was heated at reflux for 1.3 hours. The mixture was concentrated, and the residue taken up in 10 ml. of concentrated hydrochloric acid. The acid solution was heated on a steam bath for one hour and the cooled reaction made basic by the addition of solid potassium carbonate. The product was extracted with chloroform (4×15 ml.) and the combined extracts dried and concentrated to give 1.1 g. of crude product. The product was chromatographed over 35 g. of silica gel using chloroform-methanol (19:1, v:v) as the eluent to give 510 mg. (30%), m.p. 214°-216° C.

reactant | 2-(2-ethylamino-4-pyridyl)-2,2-diethoxyethylamine | 8 mmoles | C(C)NC1=NC=CC(=C1)C(CN)(OCC)OCC | C13H23N3O2
reactant | ethyl acetimidate hydrochloride | 8.3 mmoles | Cl.C(C)(OCC)=N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 2-ethylamino-4-(2-methyl-4-imidazolyl)pyridine | C(C)NC1=NC=CC(=C1)C=1N=C(NC1)C | C11H14N4
